US08247576B2
49D. 2-{(4-Chloro-phenyl)-[4-(1H-pyrazol-4-yl)-phenyl]-methoxy}-ethylamine
Hydrazine monohydrate (159 μl, 3.28 mmol) was added to a solution of N-(2-{(4-Chloro-phenyl)-[4-(1H-pyrazol-4-yl)-phenyl]-methoxy}-ethyl)-phthalamic acid (260 mg, 0.55 mmol) in methanol (6 ml) and the reaction mixture stirred at 80° C. for 16 hours. Upon cooling, the solvent was removed under reduced pressure and the crude product was purified by column chromatography (SiO2), eluting with dichloromethane: methanol: acetic acid:water (90:18:3:2). Further purification by Phenomenex_Strata_SCX column chromatography, eluting with methanol followed by 2N ammonia in methanol, afforded the desired product as the free base (120 mg). LC/MS: (FL-A) Rt 2.07 [M-NH2CH2CH2O+H]+ 267. 1H NMR (Me-d3-OD) δ 2.85 (2H, t), 3.55 (2H, t), 5.45 (1H, s), 7.35-7.40 (6H, m), 7.58 (2H, d), 7.95 (2H, s).

reactant | Hydrazine monohydrate | 3.28 mmol, 159 μl | O.NN
reactant | N-(2-{(4-Chloro-phenyl)-[4-(1H-pyrazol-4-yl)-phenyl]-methoxy}-ethyl)-phthalamic acid | 0.55 mmol, 260 mg | ClC1=CC=C(C=C1)C(OCCNC(C=1C(C(=O)O)=CC=CC1)=O)C1=CC=C(C=C1)C=1C=NNC1 | C26H22ClN3O4
solvent | methanol | 6 ml | CO | CH4O
product | 2-{(4-Chloro-phenyl)-[4-(1H-pyrazol-4-yl)-phenyl]-methoxy}-ethylamine | ClC1=CC=C(C=C1)C(OCCN)C1=CC=C(C=C1)C=1C=NNC1 | C18H18ClN3O
